US07678795B2
Step C]: (1S,8R)-5-Adamantan-1-yl-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
This material was prepared according to example 1 step C] (1S,4R)-3-[2-adamantan-1-yl-2-oxo-eth-(E)-ylidene]-1,7,7-trimethyl-bicyclo[2.2.1]heptan-2-one (0.2 g) and hydrazine monohydrate (0.117 g) with the following modifications: toluene as solvent (5 ml) in the presence of p-toluene sulfonic acid (0.117 g), heating for 12 h at reflux temperature and isolation of desired product by chromatography (no further NaOMe treatment as in example 1 step C]. This gave (1S,8R)-5-adamantan-1-yl-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene (0.027 g) as an amorphous light yellow solid. MS (EI): 322.4 (M+).

reactant | (1S,4R)-3-[2-adamantan-1-yl-2-oxo-eth-(E)-ylidene]-1,7,7-trimethyl-bicyclo[2.2.1]heptan-2-one | 0.2 g | C12(CC3CC(CC(C1)C3)C2)C(\C=C/2\C([C@]3(CC[C@@H]2C3(C)C)C)=O)=O | C22H30O2
reactant | hydrazine monohydrate | 0.117 g | O.NN
reactant | p-toluene sulfonic acid | 0.117 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaOMe | C[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1S,8R)-5-Adamantan-1-yl-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C12(CC3CC(CC(C1)C3)C2)C2=NN=C3[C@]1(CC[C@@H](C3=C2)C1(C)C)C | C22H30N2
